US06444408B1
Synthesis of Bis(trimethylsilyl)methylmethacrylate
Bis(trimethylsilyl)chloromethane (Aldrich) (14.68 g, 0.075 mole), sodium methacrylate (8.96 g, 0.0825 mole), Adogen 464 (Aldrich) (1.70 g), and phenothiazine (0.05 grams) were placed in a round bottom flask equipped with a condenser, mechanical stirrer and a nitrogen inlet. The flask was charged with 200 ml acetonitrile and heated to reflux while stirring. After 4 days, the mixture was filtered to remove the solids and the solvent was removed in a rotary evaporator. Fractional distillation under reduced pressure gave 10.90 grams (60% yield) of a clear liquid at 46-48° C. at 0.5 mm pressure.

reactant | Bis(trimethylsilyl)chloromethane | 0.075 mole, 14.68 g | C[Si](C)(C)C(Cl)[Si](C)(C)C | C7H19ClSi2
reactant | sodium methacrylate | 0.0825 mole, 8.96 g | C(C(=C)C)(=O)[O-].[Na+]
catalyst | Adogen 464 | 1.70 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
catalyst | phenothiazine | 0.05 grams | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | Bis(trimethylsilyl)methylmethacrylate | 10.90 grams, 60% yield | C[Si](C)(C)C([Si](C)(C)C)OC(C(=C)C)=O | C11H24O2Si2
